US07595397B2
2-Benzyl-morpholine
The above compound could be made in the following manner: 1 eq. 2-Benzyl-morpholine-4-carboxylic acid tert-butyl ester could be dissolved in 4N solution of hydrogen chloride in dioxane and the mixture could be stirred at 60° C. for 3 h. The solvent could be removed in vacuo and 1N aqueous hydrogen chloride solution could be added to the resulting residue, and the mixture could be washed with diethyl ether. The aqueous layer could be adjusted to pH 14 by addition of 2N NaOH solution and extracted with methylene chloride. The organic layer could be washed with brine and dried over sodium sulfate. After filtering, the material could be purified by column chromatography.

reactant | 2-Benzyl-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)CC1=CC=CC=C1 | C16H23NO3
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Benzyl-morpholine | C(C1=CC=CC=C1)C1CNCCO1 | C11H15NO
